US04820331
At 0° to 10° C., 600 ml of concentrated hydrochloric acid was added to a solution of 44.6 g of 2-butyryl-5-tert-butoxymethyl-3-hydroxycyclohex-2-en-1-one in ethanol. After 2 hours the mixture was concentrated, and the residue was taken up in dichloromethane and extracted by shaking with water. After concentration there was obtained 26.2 g of 2-butyryl-3-hydroxy-5-hydroxymethylcyclohex-2-en-1-one as a pale yellow oil (compound no. 3).

reactant | hydrochloric acid | 600 ml | Cl | ClH
reactant | 2-butyryl-5-tert-butoxymethyl-3-hydroxycyclohex-2-en-1-one | 44.6 g | C(CCC)(=O)C=1C(CC(CC1O)COC(C)(C)C)=O | C15H24O4
solvent | ethanol | C(C)O | C2H6O
product | 2-butyryl-3-hydroxy-5-hydroxymethylcyclohex-2-en-1-one | 26.2 g | C(CCC)(=O)C=1C(CC(CC1O)CO)=O | C11H16O4
